US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyridin-2-yl)-1,3-benzoxazole-4-carbonitrile (#35)
With cooling with ice, oxalyl chloride (262 μl, 3 mmol) and a catalytic amount of dimethylformamide were added to a dichloromethane (7 ml) suspension of picolinic acid (271 mg, 2.2 mmol), followed by stirring at the same temperature for 10 minutes and stirring at room temperature for 20 minutes. After again cooling with ice, a dichloromethane suspension of 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (458 mg, 2.0 mmol) and diisopropylethylamine (697 μl, 4 mmol) were added, followed by stirring at room temperature for 2 hours. The reaction liquid was diluted with chloroform, then the organic layer was washed with water, dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was heated under reflux for 30 minutes in toluene (20 ml) in the presence of a catalytic amount of p-tosylic acid with a Dean-Stark device. After cooling, the solvent was evaporated away, the resulting residue was dissolved in chloroform, washed with water, dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was heated under reflux in xylene (20 ml) in the presence of a catalytic amount of p-tosylic acid with a Dean-Stark device. After cooling, the solvent was evaporated away, the resulting residue was dissolved in chloroform, washed with water, dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was washed with a mixed solvent of ethyl acetate and isopropyl ether, the precipitated solid was collected by filtration. This was suspended in toluene (40 ml), and heated under reflux for 15 hours in the presence of a catalytic amount of pyridinium p-toluenesulfonate. Further, the solvent was changed to xylene, a catalytic amount of p-toluenesulfonic acid was added, followed by heating under reflux for 12 hours. After cooling, the solvent was evaporated away, and the resulting residue was dissolved in chloroform, washed with water, then dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and eluted with a mixed solvent of chloroform/methanol (100:10, v/v→98:2, v/v) to obtain a main product. This was dissolved in dimethyl sulfoxide (8 ml), and (3S)-3-(dimethylamino)pyrrolidine (129 μl, 1.02 mmol) and triethylamine (150 μl) were added.

reactant | oxalyl chloride | 3 mmol, 262 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | picolinic acid | 2.2 mmol, 271 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 2.0 mmol, 458 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | diisopropylethylamine | 4 mmol, 697 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.02 mmol, 129 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 150 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyridin-2-yl)-1,3-benzoxazole-4-carbonitrile | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C2=NC=CC=C2)C#N)C)C2=CC=CC=C2)C | C26H25N5O
